US05364871
Phosphorus oxychloride (2.75 g) was added to a solution of 3-acetyl-5-carbamoylpyridine (2.8 g) in N,N-dimethylformamide (30 ml) with cooling on an ice-water bath. The mixture was stirred with cooling for 1.5 hours. The solvent was removed under reduced pressure. The residue was dissolved in water (150 ml) and the mixture was extracted with ethyl acetate (100 ml). The extract was dried with magnesium sulfate and then evaporated. The residue was chromatographed on a silica gel column eluting with chloroform to afford 3-acetyl-5-cyanopyridine (1.21 g).

reactant | Phosphorus oxychloride | 2.75 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-acetyl-5-carbamoylpyridine | 2.8 g | C(C)(=O)C=1C=NC=C(C1)C(N)=O | C8H8N2O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-acetyl-5-cyanopyridine | 1.21 g | C(C)(=O)C=1C=NC=C(C1)C#N | C8H6N2O
